US07375102B2
(R)-{1-[3-(4-Ethoxy-phenyl)-8-methyl-4-oxo-3,4,5,6,7,8-hexahydro-pyrido[2,3-d]pyrimidin-2-yl]-ethyl}-carbamic acid tert-butyl ester (G1).
(R)-2-(1-Amino-ethyl)-3-(4-ethoxy-phenyl)-8-methyl-5,6,7,8-tetrahydro-3H-pyrido[2,3-d]pyrimidin-4-one (G2) To a solution of 110 mg G1 (0.26 mmol, 1.00 equiv.) dissolved in 2 mL dichloromethane cooled by an ice-bath was added 4 mL trifluoroacetic acid all at once. The reaction was equilibrated to room temperature. After 40 min. the reaction was concentrated in vacuo and the concentrate was partitioned between 25 mL each dichloromethane and saturated aqueous sodium bicarbonate. The aqueous separation was extracted again with 25 mL dichloromethane. Combined organic extracts were dried over magnesium sulfate, filtered and concentrated in vacuo to afford G4 as a faint yellow glassy solid, 83 mg. The product was used in the next step without further purification.

reactant | (R)-2-(1-Amino-ethyl)-3-(4-ethoxy-phenyl)-8-methyl-5,6,7,8-tetrahydro-3H-pyrido[2,3-d]pyrimidin-4-one | N[C@H](C)C=1N(C(C2=C(N1)N(CCC2)C)=O)C2=CC=C(C=C2)OCC | C18H24N4O2
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (R)-{1-[3-(4-Ethoxy-phenyl)-8-methyl-4-oxo-3,4,5,6,7,8-hexahydro-pyrido[2,3-d]pyrimidin-2-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C)C=1N(C(C2=C(N1)N(CCC2)C)=O)C2=CC=C(C=C2)OCC)=O | C23H32N4O4
